US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-(2-p-toluenesulfonyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone
To a 15 ml round bottom flask charged with 2-tert-butyl-4-chloro-5-(2-hydroxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone (0.25 g, 0.66 mmol) is added pyridine. Toluenesulfonyl chloride (0.15 g, 0.79 mmol) is then added to it and the mixture stirred for 4 hours. The reaction mixture is diluted with ethyl acetate, washed with 5% copper sulfate solution and then with water and dried. After removing the solvent on the rotary evaporator the crude is purified by flash chromatography using ethyl acetate-hexanes as the eluting mixture.

reactant | 2-tert-butyl-4-chloro-5-(2-hydroxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | 0.66 mmol, 0.25 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(CO)C1=CC=C(C=C1)C(C)(C)C | C20H27ClN2O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Toluenesulfonyl chloride | 0.79 mmol, 0.15 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-chloro-5-(2-p-toluenesulfonyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(COS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C(C)(C)C | C27H33ClN2O5S
